US09056873B2
In a 30 mL sealed cap glass vessel, tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (102 mg, 0.205 mmol), 1-methyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole (175 mg, 0.410 mmol) and tetrakis(triphenylphosphine) palladium(0) (118 mg, 0.102 mmol) were dissolved in toluene (5 mL). The cap was sealed and the reaction mixture was heated at 90° C. in an oil bath for 2 hours. The reaction mixture was concentrated to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(1-methyl-1H-thieno[3,2-c]pyrazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in TFA (5 mL) and the reaction mixture was stirred for 1 hour. The mixture was concentrated, dissolved in DMSO (5 mL), and purified via preparative HPLC, eluting with a gradient of 15-65% ACN (0.035% TFA) and H2O (0.05% TFA). The pure fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a white solid (75 mg, 91%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28-1.55 (m, 2H), 1.60 (d, J=14.15 Hz, 1H), 1.67-1.93 (m, 3H), 1.98 (dd, J=13.64, 4.29 Hz, 2H), 3.85 (br s, 1H), 3.99 (s, 2H), 4.24 (d, J=3.54 Hz, 1H), 4.38-4.54 (m, 2H), 7.14 (d, J=5.81 Hz, 1H), 7.62-7.88 (m, 3H), 8.62 (s, 1H), 9.27 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C19H21FN6OS, 401. found, 401.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.205 mmol, 102 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 1-methyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole | 0.410 mmol, 175 mg | CN1N=CC2=C1C=C(S2)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.102 mmol, 118 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-4-(1-methyl-1H-thieno[3,2-c]pyrazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=3N(N=CC3S1)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C29H37FN6O5S
